US07138411B2
Step 1. Preparation of ethyl 6-chloro-7-(2,2,2-trifluoroethoxy)-2-(trifluoromethyl)-2H-1-benzopyran-3-carboxylate.
A solution of 2,2,2-trifluoroethanol(1.3 g, 13 mmol) in 1,4-dioxane (2 mL) was added to a slurry of NaH (0.5 g, 13 mmol) in 1,4-dioxane (2 mL). The reaction was stirred for 10 minutes then a solution of 6-chloro-7-fluoro-2-(trifluoromethyl)-2H-1-benzopyran-3-carboxylate (1.61 g, 5.0 mmol) in 1,4-dioxane (5 mL) was added and the reaction was heated to 85° C. for 22 hours. The reaction mixture was acidified with 3N HCl, extracted with ethyl acetate, washed with saturated NaHCO3, brine, dried over MgSO4 and concentrated in vacuo, to give a brown oil which was passed through a column of silica gel with 10% ethyl acetate/hexanes to give a white solid (0.37 g, 18%): 1H NMR (CDCl3/300 MHz) 7.62 (s, 1H), 7.28 (s, 1H), 6.58 (s, 1H), 5.69 (q, 1H, J=6.6 Hz), 4.42 (m, 2H), 4.31 (m, 2H), 1.34 (t, 3H, J=7.1 Hz). 19F NMR (CDCl3/282 MHz) −74.2 (t, 3F, J=8.0 Hz), −78.9 (d, 3F, J=6.5 Hz).

reactant | 2,2,2-trifluoroethanol | 13 mmol, 1.3 g | FC(CO)(F)F | C2H3F3O
reactant | NaH | 13 mmol, 0.5 g | [H-].[Na+]
reactant | 6-chloro-7-fluoro-2-(trifluoromethyl)-2H-1-benzopyran-3-carboxylate | 5.0 mmol, 1.61 g | ClC=1C(=CC2=C(C=C(C(O2)C(F)(F)F)C(=O)[O-])C1)F
reactant | HCl | 3N | Cl | ClH
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | ethyl 6-chloro-7-(2,2,2-trifluoroethoxy)-2-(trifluoromethyl)-2H-1-benzopyran-3-carboxylate | 0.37 g, 18% | ClC=1C(=CC2=C(C=C(C(O2)C(F)(F)F)C(=O)OCC)C1)OCC(F)(F)F | C15H11ClF6O4
